US08648066B2
6-Chloro-5-methyl-N-phenylpyrimidin-4-amine.
Synthesized according to the method of reagent preparation 49 using 6-chloro-5-methylpyrimidin-4-ol and aniline in step 1.

reactant | 6-chloro-5-methylpyrimidin-4-ol | ClC1=C(C(=NC=N1)O)C | C5H5ClN2O
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | 6-Chloro-5-methyl-N-phenylpyrimidin-4-amine | ClC1=C(C(=NC=N1)NC1=CC=CC=C1)C | C11H10ClN3
